US06110939
A mixture of (±)-1,1-dimethylethyl 7-(hydroxyphenylmethyl)-1,4-dioxa-8-azaspiro[4.5]decane-8-carboxylate (183.6 g) and potassium tert-butoxide (6 g) in toluene (900 ml) was stirred and refluxed for 2 hours. The solvent was evaporated and the residue was stirred in petrol ether and water. The mixture was decanted and the residue was stirred up in DIPE. The precipitate was filtered off and dried, yielding 127.4 g (92%) of (±)-tetrahydro-1'-phenylspiro(1,3-dioxolan-2,7'(8'H)-3H-oxazolo[3,4-a]pyridin)-3'-one (interm. 2).

reactant | (±)-1,1-dimethylethyl 7-(hydroxyphenylmethyl)-1,4-dioxa-8-azaspiro[4.5]decane-8-carboxylate | 183.6 g | OC(C1CC2(OCCO2)CCN1C(=O)OC(C)(C)C)C1=CC=CC=C1 | C19H27NO5
reactant | potassium tert-butoxide | 6 g | CC(C)([O-])C.[K+]
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-tetrahydro-1'-phenylspiro(1,3-dioxolan-2,7'(8'H)-3H-oxazolo[3,4-a]pyridin)-3'-one | 127.4 g, 92% | C1(=CC=CC=C1)C1OC(N2C1CC1(CC2)OCCO1)=O | C15H17NO4
